US09108944B2
Dihydrofuran-2,5-dione (604 mg, 6.87 mmol) in DMF (5 mL) was added to a mixture of 5-(5-(4-hydroxyphenyl)-8-oxo-6-thioxo-5,7-diazaspiro[3.4]octan-7-yl)-3-methylpicolinonitrile (500 mg, 1.37 mmol) and potassium carbonate (378 mg, 2.74 mmol) in DMF (10 mL) and the resulting mixture was heated to 85° C. overnight. The mixture was cooled to room temperature and partitioned between water and EtOAc. The aqueous was extracted further with EtOAc (2×) and the combined organics were washed with water, then brine. The organics were dried over sodium sulfate, filtered, and concentrated. Column chromatography on silica gel (50 to 100% EtOAc/hexanes) afforded 396 mg of 5-(5-(4-(2-hydroxyethoxy)phenyl)-8-oxo-6-thioxo-5,7-diazaspiro[3.4]octan-7-yl)-3-methylpicolinonitrile as a white solid. 1H NMR (300 MHz, DMSO-d6) δ 8.71 (d, 1H), 8.14 (d, 1H), 7.33 (d, 2H), 7.13 (d, 2H), 4.92 (t, 1H), 4.11-4.05 (m, 2H), 3.78-3.73 (m, 2H), 2.63-2.5 (m, 5H), 2.49-2.37 (m, 2H), 2.00-1.90 (m, 1H), 1.56-1.51 (m, 1H). LCMS [M+1]+ 409.0.

reactant | Dihydrofuran-2,5-dione | 6.87 mmol, 604 mg | O1C(CCC1=O)=O | C4H4O3
reactant | 5-(5-(4-hydroxyphenyl)-8-oxo-6-thioxo-5,7-diazaspiro[3.4]octan-7-yl)-3-methylpicolinonitrile | 1.37 mmol, 500 mg | OC1=CC=C(C=C1)N1C2(CCC2)C(N(C1=S)C=1C=C(C(=NC1)C#N)C)=O | C19H16N4O2S
reactant | potassium carbonate | 2.74 mmol, 378 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 5-(5-(4-(2-hydroxyethoxy)phenyl)-8-oxo-6-thioxo-5,7-diazaspiro[3.4]octan-7-yl)-3-methylpicolinonitrile | 396 mg | OCCOC1=CC=C(C=C1)N1C2(CCC2)C(N(C1=S)C=1C=C(C(=NC1)C#N)C)=O | C21H20N4O3S
